US04895868
Ethyl 4-(4,4-dimethyl-7-thiochromanoyloxy)benzoate
A solution of 103.5 mg (0.466 mmol) of 4,4-dimethyl-7-carboxythiochroman and 77.8 mg (0.468 mmol) of ethyl 4-hydroxybenzoate in 10 ml of methylene chloride was treated sequentially with 14.2 mg (0.116 mmol) of 4-dimethylaminopyridine and 96.9 mg (0.47 mmol) of 1,3-dicyclohexylcarbodiimide. The reaction mixture was stirred at room temperature for 120 hours and then filtered and the residue washed with 10 ml of methylene chloride. The filtrate was concentrated in-vacuo and the residue purified by flash chromatography (silica; 5% ethyl acetate in hexanes) to give the title compound as a colorless oil. PMR (CDCl3): 1.38 (6H, s), 1.42 (3H, t, J~7.1 Hz), 2.02 (2H, m), 3.08 (2H, m), 4.41 (2H, q, J~7.1 Hz), 7.29 (2H, d, J~8.7 Hz), 7.51 (1H, d, J~8.3 Hz), 7.81 1H, dd, J~8.3 Hz, 1.9 Hz), 7.95 (1H, d, J~1.9 Hz), 8.14 (2H, d, J~8.7 Hz)

reactant | 4,4-dimethyl-7-carboxythiochroman | 0.466 mmol, 103.5 mg | CC1(CCSC2=CC(=CC=C12)C(=O)O)C | C12H14O2S
reactant | ethyl 4-hydroxybenzoate | 0.468 mmol, 77.8 mg | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1,3-dicyclohexylcarbodiimide | 0.47 mmol, 96.9 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.116 mmol, 14.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 4-(4,4-dimethyl-7-thiochromanoyloxy)benzoate | CC1(CCSC2=CC(=CC=C12)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C | C21H22O4S
